**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  High current inductor for TLVR applic
* Matchcode:              WE-HCMD
* Library Type:           LTspice
* Version:                rev26a
* Created/modified by:    Ella
* Date and Time:          8/14/2026
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2026 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 0910_7443000910070_0.07u 1  2  3  4  PARAMS:
+  Cww=12p
+  Rp1=31.855
+  Cp1=37.59p
+  Lp1=0.0668u
+  Rp2=31.252
+  Cp2=35.744p
+  Lp2=0.070251u
+  RDC1=0.125m
+  RDC2=0.33m
+  K=0.930198613779791
C_C1 2 1 {Cww/2}
R_R50 2 1 5000g
C_C2 3 4 {Cww/2}
C_C5 3 2 {Cp1}
R_R1 3 N05454 {RDC1}
R_R2 3 2 {Rp1}
L_L1 N05454 2 {Lp1}
L_L2 N05750 1 {Lp2}
C_C6 4 1 {Cp2}
R_R3 4 1 {Rp2}
R_R4 4 N05750 {RDC2}
Kn_K1  L_L1  L_L2  {K}
.ends 
*******
.subckt 0910_7443000910100_0.1u 1  2  3  4  PARAMS:
+  Cww=13p
+  Rp1=35.257
+  Cp1=46.675p
+  Lp1=0.101599u
+  Rp2=35.596
+  Cp2=49.65p
+  Lp2=0.100707u
+  RDC1=0.125m
+  RDC2=0.33m
+  K=0.954681334765334
C_C1 2 1 {Cww/2}
R_R50 2 1 5000g
C_C2 3 4 {Cww/2}
C_C5 3 2 {Cp1}
R_R1 3 N05454 {RDC1}
R_R2 3 2 {Rp1}
L_L1 N05454 2 {Lp1}
L_L2 N05750 1 {Lp2}
C_C6 4 1 {Cp2}
R_R3 4 1 {Rp2}
R_R4 4 N05750 {RDC2}
Kn_K1  L_L1  L_L2  {K}
.ends 
*******
.subckt 0910_7443000910120_0.12u 1  2  3  4  PARAMS:
+  Cww=15p
+  Rp1=37.143
+  Cp1=55.398p
+  Lp1=0.117637u
+  Rp2=37.333
+  Cp2=55.351p
+  Lp2=0.124143u
+  RDC1=0.125m
+  RDC2=0.33m
+  K=0.960985670387815
C_C1 2 1 {Cww/2}
R_R50 2 1 5000g
C_C2 3 4 {Cww/2}
C_C5 3 2 {Cp1}
R_R1 3 N05454 {RDC1}
R_R2 3 2 {Rp1}
L_L1 N05454 2 {Lp1}
L_L2 N05750 1 {Lp2}
C_C6 4 1 {Cp2}
R_R3 4 1 {Rp2}
R_R4 4 N05750 {RDC2}
Kn_K1  L_L1  L_L2  {K}
.ends 
*******
.subckt 0910_7443000910150_0.15u 1  2  3  4  PARAMS:
+  Cww=15p
+  Rp1=39.622
+  Cp1=62.369p
+  Lp1=0.151404u
+  Rp2=39.347
+  Cp2=62.482p
+  Lp2=0.15113u
+  RDC1=0.125m
+  RDC2=0.33m
+  K=0.969822866388133
C_C1 2 1 {Cww/2}
R_R50 2 1 5000g
C_C2 3 4 {Cww/2}
C_C5 3 2 {Cp1}
R_R1 3 N05454 {RDC1}
R_R2 3 2 {Rp1}
L_L1 N05454 2 {Lp1}
L_L2 N05750 1 {Lp2}
C_C6 4 1 {Cp2}
R_R3 4 1 {Rp2}
R_R4 4 N05750 {RDC2}
Kn_K1  L_L1  L_L2  {K}
.ends 
*******
.subckt 1111_7443001111070_0.07u 1  2  3  4  PARAMS:
+  Cww=10p
+  Rp1=27.744
+  Cp1=53.365p
+  Lp1=0.068609u
+  Rp2=27.247
+  Cp2=49.95p
+  Lp2=0.065519u
+  RDC1=0.125m
+  RDC2=0.37m
+  K=0.932106149899873
C_C1 2 1 {Cww/2}
R_R50 2 1 5000g
C_C2 3 4 {Cww/2}
C_C5 3 2 {Cp1}
R_R1 3 N05454 {RDC1}
R_R2 3 2 {Rp1}
L_L1 N05454 2 {Lp1}
L_L2 N05750 1 {Lp2}
C_C6 4 1 {Cp2}
R_R3 4 1 {Rp2}
R_R4 4 N05750 {RDC2}
Kn_K1  L_L1  L_L2  {K}
.ends 
*******
.subckt 1111_7443001111105_0.105u 1  2  3  4  PARAMS:
+  Cww=10p
+  Rp1=31.069
+  Cp1=62.813p
+  Lp1=0.101296u
+  Rp2=29.66
+  Cp2=63.584p
+  Lp2=0.102491u
+  RDC1=0.125m
+  RDC2=0.37m
+  K=0.95454254848063
C_C1 2 1 {Cww/2}
R_R50 2 1 5000g
C_C2 3 4 {Cww/2}
C_C5 3 2 {Cp1}
R_R1 3 N05454 {RDC1}
R_R2 3 2 {Rp1}
L_L1 N05454 2 {Lp1}
L_L2 N05750 1 {Lp2}
C_C6 4 1 {Cp2}
R_R3 4 1 {Rp2}
R_R4 4 N05750 {RDC2}
Kn_K1  L_L1  L_L2  {K}
.ends 
*******
.subckt 1111_7443001111120_0.12u 1  2  3  4  PARAMS:
+  Cww=13p
+  Rp1=40.15
+  Cp1=53.038p
+  Lp1=0.119964u
+  Rp2=38.187
+  Cp2=51.126p
+  Lp2=0.114649u
+  RDC1=0.125m
+  RDC2=0.37m
+  K=0.961757502309171
C_C1 2 1 {Cww/2}
R_R50 2 1 5000g
C_C2 3 4 {Cww/2}
C_C5 3 2 {Cp1}
R_R1 3 N05454 {RDC1}
R_R2 3 2 {Rp1}
L_L1 N05454 2 {Lp1}
L_L2 N05750 1 {Lp2}
C_C6 4 1 {Cp2}
R_R3 4 1 {Rp2}
R_R4 4 N05750 {RDC2}
Kn_K1  L_L1  L_L2  {K}
.ends 
*******
.subckt 1111_7443001111150_0.15u 1  2  3  4  PARAMS:
+  Cww=13p
+  Rp1=41.995
+  Cp1=55.935p
+  Lp1=0.149954u
+  Rp2=42.155
+  Cp2=52.481p
+  Lp2=0.138054u
+  RDC1=0.125m
+  RDC2=0.37m
+  K=0.96952647945046
C_C1 2 1 {Cww/2}
R_R50 2 1 5000g
C_C2 3 4 {Cww/2}
C_C5 3 2 {Cp1}
R_R1 3 N05454 {RDC1}
R_R2 3 2 {Rp1}
L_L1 N05454 2 {Lp1}
L_L2 N05750 1 {Lp2}
C_C6 4 1 {Cp2}
R_R3 4 1 {Rp2}
R_R4 4 N05750 {RDC2}
Kn_K1  L_L1  L_L2  {K}
.ends 
*******
.subckt 1111_7443001111180_0.18u 1  2  3  4  PARAMS:
+  Cww=15p
+  Rp1=43.294
+  Cp1=60.352p
+  Lp1=0.183211u
+  Rp2=42.824
+  Cp2=66.937p
+  Lp2=0.165274u
+  RDC1=0.125m
+  RDC2=0.37m
+  K=0.975128869438206
C_C1 2 1 {Cww/2}
R_R50 2 1 5000g
C_C2 3 4 {Cww/2}
C_C5 3 2 {Cp1}
R_R1 3 N05454 {RDC1}
R_R2 3 2 {Rp1}
L_L1 N05454 2 {Lp1}
L_L2 N05750 1 {Lp2}
C_C6 4 1 {Cp2}
R_R3 4 1 {Rp2}
R_R4 4 N05750 {RDC2}
Kn_K1  L_L1  L_L2  {K}
.ends 
*******
.subckt 1111_7443001111200_0.2u 1  2  3  4  PARAMS:
+  Cww=15p
+  Rp1=44.368
+  Cp1=65.533p
+  Lp1=0.193722u
+  Rp2=44.181
+  Cp2=66.096p
+  Lp2=0.196333u
+  RDC1=0.125m
+  RDC2=0.37m
+  K=0.976494584275413
C_C1 2 1 {Cww/2}
R_R50 2 1 5000g
C_C2 3 4 {Cww/2}
C_C5 3 2 {Cp1}
R_R1 3 N05454 {RDC1}
R_R2 3 2 {Rp1}
L_L1 N05454 2 {Lp1}
L_L2 N05750 1 {Lp2}
C_C6 4 1 {Cp2}
R_R3 4 1 {Rp2}
R_R4 4 N05750 {RDC2}
Kn_K1  L_L1  L_L2  {K}
.ends 
*******
